* d:\esim-workspace\3bit_pwm_generator\3bit_pwm_generator.cir

.include lm_741.sub
.include Triangular_wave_gen.sub
.include D.lib
.include NMOS-180nm.lib
* u6  b2 b1 b0 en net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ adc_bridge_4
* u7  net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_m1-pad2_ net-_m2-pad2_ net-_m3-pad2_ net-_m4-pad2_ net-_m5-pad2_ net-_m6-pad2_ net-_m7-pad2_ net-_m8-pad2_ dac_bridge_8
r2  net-_m1-pad1_ net-_m2-pad1_ 10k
r4  net-_m2-pad1_ net-_m3-pad1_ 10k
r6  net-_m3-pad1_ net-_m4-pad1_ 10k
r8  net-_m4-pad1_ net-_m5-pad1_ 10k
r10  net-_m5-pad1_ net-_m6-pad1_ 10k
r12  net-_m6-pad1_ net-_m7-pad1_ 10k
r14  net-_m7-pad1_ net-_m8-pad1_ 10k
r17  net-_m8-pad1_ gnd 10k
m1 net-_m1-pad1_ net-_m1-pad2_ net-_d1-pad1_ net-_d1-pad1_ CMOSN W=100u L=100u M=1
m2 net-_m2-pad1_ net-_m2-pad2_ net-_d2-pad1_ net-_d2-pad1_ CMOSN W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m3-pad2_ net-_d3-pad1_ net-_d3-pad1_ CMOSN W=100u L=100u M=1
m4 net-_m4-pad1_ net-_m4-pad2_ net-_d4-pad1_ net-_d4-pad1_ CMOSN W=100u L=100u M=1
m5 net-_m5-pad1_ net-_m5-pad2_ net-_d5-pad1_ net-_d5-pad1_ CMOSN W=100u L=100u M=1
m6 net-_m6-pad1_ net-_m6-pad2_ net-_d6-pad1_ net-_d6-pad1_ CMOSN W=100u L=100u M=1
m7 net-_m7-pad1_ net-_m7-pad2_ net-_d7-pad1_ net-_d7-pad1_ CMOSN W=100u L=100u M=1
m8 net-_m8-pad1_ net-_m8-pad2_ net-_d8-pad1_ net-_d8-pad1_ CMOSN W=100u L=100u M=1
r1  net-_d1-pad1_ gnd 100k
r3  net-_d2-pad1_ gnd 100k
r5  net-_d3-pad1_ gnd 100k
r7  net-_d4-pad1_ gnd 100k
r9  net-_d5-pad1_ gnd 100k
r11  net-_d6-pad1_ gnd 100k
r13  net-_d7-pad1_ gnd 100k
r15  net-_d8-pad1_ gnd 100k
d1 net-_d1-pad1_ threshold 1N4148
d2 net-_d2-pad1_ threshold 1N4148
d3 net-_d3-pad1_ threshold 1N4148
d4 net-_d4-pad1_ threshold 1N4148
d5 net-_d5-pad1_ threshold 1N4148
d6 net-_d6-pad1_ threshold 1N4148
d7 net-_d7-pad1_ threshold 1N4148
d8 net-_d8-pad1_ threshold 1N4148
r16  threshold gnd 100k
* u8  threshold plot_v1
v5  net-_m1-pad1_ gnd 5
* u1  b2 plot_v1
* u2  b1 plot_v1
* u4  b0 plot_v1
* u5  en plot_v1
x1 ? trianglesignal Triangular_wave_gen
x2 ? trianglesignal threshold net-_x2-pad4_ ? pwm_out net-_x2-pad7_ ? lm_741
v7  gnd net-_x2-pad4_ 1
v6  net-_x2-pad7_ gnd 5
* u9  trianglesignal plot_v1
* u10  pwm_out plot_v1
v4 en gnd  dc 5
v3 b0 gnd  dc 5
v2 b1 gnd  dc 5
v1 b2 gnd  dc 5
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ decoder_3x8
a1 [b2 b1 b0 en ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ ] u6
a2 [net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ ] [net-_m1-pad2_ net-_m2-pad2_ net-_m3-pad2_ net-_m4-pad2_ net-_m5-pad2_ net-_m6-pad2_ net-_m7-pad2_ net-_m8-pad2_ ] u7
a3 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ ] [net-_u3-pad4_ ] [net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ ] u3
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=0 in_high=5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             decoder_3x8, NgSpice Name: decoder_3x8
.model u3 decoder_3x8(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-03 50e-03 15e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(threshold)
plot v(b2)
plot v(b1)
plot v(b0)
plot v(en)
plot v(trianglesignal)
plot v(pwm_out)
.endc
.end
