* c:\fossee\esim\library\subcircuitlibrary\triangular_wave_gen\triangular_wave_gen.cir

.include lm_741.sub
.include D.lib
x1 ? gnd net-_r1-pad1_ net-_x1-pad4_ ? net-_r2-pad2_ net-_x1-pad7_ ? lm_741
x2 ? net-_c1-pad2_ gnd net-_x1-pad4_ ? net-_c1-pad1_ net-_x1-pad7_ ? lm_741
r1  net-_r1-pad1_ net-_c1-pad1_ 600
r2  net-_r1-pad1_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_c1-pad2_ 12k
c1  net-_c1-pad1_ net-_c1-pad2_ 100n
v2  net-_x1-pad7_ gnd 5
v1  gnd net-_x1-pad4_ 5
c2  net-_c2-pad1_ net-_c1-pad1_ 10u
d1 gnd net-_c2-pad1_ 1N4148
r4  net-_c2-pad1_ gnd 5k
* u2  net-_c1-pad1_ net-_u2-pad2_ port
v3  net-_u2-pad2_ net-_c2-pad1_ 0.7
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
